US09447091B2
N-(5-(6-(1-(cyclopropylmethyl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]-pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide
A mixture N-(5-(6-ethynyl-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide (300 mg, 0.77 mmol), sodium azide (76 mg, 1.15 mmol, 1.5 eq.), (bromomethyl)cyclopropane (125 mg, 0.92 mmol, 1.2 eq.), copper iodide (14 mg, 0.07 mmol, 0.1 eq.) in DMF was stirred for 16 h at RT. The mixture was quenched with water and the precipitate formed was filtered and dried to give the crude product which was purified by preparative HPLC to give the product in 82.6% yield (310 mg). 1H NMR (300 MHz, DMSO): δ 10.4 (s, 1H) 8.99 (d, 2H), 8.80 (s, 1H), 8.63 (d, 1H), 8.30 (s, 1H), 7.91 (d, 1H), 7.76-7.68 (m, 2H), 7.49-7.41 (m, 1H), 7.30-7.25 (m, 1H), 4.21 (m, 2H), 2.12 (s, 3H), 1.23 (m, 1H), 0.63-0.60 (2H, d) 0.50-0.48 (2H, d); LC-MS (ESI): Calculated mass: 485.4; Observed mass: 486.1 [M+H]+ (rt: 1.52 min).

reactant | N-(5-(6-ethynyl-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 0.77 mmol, 300 mg | C(#C)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(C)=O | C22H14F2N4O
reactant | sodium azide | 1.15 mmol, 76 mg, 1.5 eq. | [N-]=[N+]=[N-].[Na+]
reactant | (bromomethyl)cyclopropane | 0.92 mmol, 125 mg, 1.2 eq. | BrCC1CC1 | C4H7Br
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.07 mmol, 14 mg, 0.1 eq. | [Cu](I)I
product | N-(5-(6-(1-(cyclopropylmethyl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]-pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 82.6% yield | C1(CC1)CN1N=NC(=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(C)=O | C26H21F2N7O
